US07893056B2
Tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (1.6214 g, 2.83 mmol) was dissolved in MeOH (28 mL) and HCl (4M in 1,4-dioxane) (28 mL). The reaction mixture was left to stir overnight and then evaporated to provide 2-chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4(1H)-pyrimidinone hydrazone, presumed dihydrochloride, as a wine colored solid (1.0828 g). LCMS: (M+H−2HCl)+=273.9.

reactant | Tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 2.83 mmol, 1.6214 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NCC1=CSC=C1)Cl)C(=O)OC(C)(C)C | C24H33ClFN5O6S
solvent | MeOH | 28 mL | CO | CH4O
solvent | HCl | 4M, 28 mL | Cl | ClH
product | 2-chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4(1H)-pyrimidinone hydrazone | ClC=1NC(=C(C(N1)=NN)F)NCC1=CSC=C1 | C9H9ClFN5S
